US06323199B1
5-{2-Hydroxy-3-[1-(2-methoxyphenyl)-cyclopropyl]-2-trifluoromethyl-propionylamino}-phthalide
500 mg of 5-{3-[1-(2-methoxyphenyl)-cyclopropyl]-2-oxo-propionylamino}-phthalide is dissolved under argon in 15 ml of dimethylformamide and mixed with 0.77 ml of trifluoromethyl-trimethylsilane and 500 mg of cesium carbonate while being cooled with ice. After 18 hours of stirring at room temperature, 5 ml of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran and a few drops of water are added and stirred for one hour at room temperature. After 100 ml of water is added, it is extracted with ethyl acetate, the organic phase is dried (Na2SO4) and concentrated by evaporation. The crude product is chromatographed on silica gel. With hexane/ethyl acetate (80:20), the title compound is obtained in a pure state.

reactant | 5-{3-[1-(2-methoxyphenyl)-cyclopropyl]-2-oxo-propionylamino}-phthalide | 500 mg | COC1=C(C=CC=C1)C1(CC1)CC(C(=O)NC=1C=C2COC(=O)C2=CC1)=O | C21H19NO5
reactant | trifluoromethyl-trimethylsilane | 0.77 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | cesium carbonate | 500 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | water | a few drops | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-{2-Hydroxy-3-[1-(2-methoxyphenyl)-cyclopropyl]-2-trifluoromethyl-propionylamino}-phthalide | OC(C(=O)NC=1C=C2COC(=O)C2=CC1)(CC1(CC1)C1=C(C=CC=C1)OC)C(F)(F)F | C22H20F3NO5
